US06417394B2
Dicyclohexylamine Salt
The aqueous equilibrium solubility of 3-[4(1,2-diphenyl-but-1-enyl)-phenyl]-acrylic acid, a SERM compound, and its meglumine and lysine salts were determined by placing aqueous suspensions of the corresponding compound on a rotator for 48 hours at room temperature. The samples were filtered using a 0.45-micrometer PTFE filter and analyzed by HPLC. The pH of the filtrate was also determined.

reactant | 3-[4(1,2-diphenyl-but-1-enyl)-phenyl]-acrylic acid | C1(=CC=CC=C1)C(=C(CC)C1=CC=CC=C1)C1=CC=C(C=C1)C=CC(=O)O | C25H22O2
reactant | meglumine | N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
